US05932567
(e) 4-Bromomethy-3-methoxybenzonitrile [sic]
14.7 g (0.1 mol) of 3-methoxy-4-methylbenzonitrile were dissolved in 210 ml of 1,2-dichloroethane, brominated with 19.1 g (0.11 mol) of NBS in portions over the course of 1 h in the presence of catalytic amounts of azobisisobutyronitrile at 82° C. and, after the addition was complete, stirred at 82° C. for a further 30 min. After addition of n-heptane, precipitated succinimide was removed, and the solvent was stripped off. The yield was 18.5 [lacuna] (82%). 1H-NMR (DMSO-d6 ; δ in ppm): 7.60 (dd, 1H); 7.50 (d, 1H); 7.40 (dd, 1H); 4.68 (s, 2H); 3.96 (s, 3H)

reactant | 3-methoxy-4-methylbenzonitrile | 0.1 mol, 14.7 g | COC=1C=C(C#N)C=CC1C | C9H9NO
reactant | NBS | 0.11 mol, 19.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | n-heptane | CCCCCCC | C7H16
solvent | 1,2-dichloroethane | 210 ml | ClCCCl | C2H4Cl2
product | 4-Bromomethy-3-methoxybenzonitrile | BrCC1=C(C=C(C#N)C=C1)OC | C9H8BrNO
